US06329381B1
6-Amino-9-benzyl-8-bromo-2-(p-tolylthio)purine
6-Amino-9-benzyl-2-(p-tolylthio)purine (86 mg, 0.37 mmol) and bromine (0.4 ml) were dissolved in 120 ml of methylene chloride and the solution was stirred at room temperature for 4 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on magnesium sulfate and filtered. The solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (0.5% methanol/chloroform) to give the subject compound (20 mg, yield 19%).

reactant | 6-Amino-9-benzyl-2-(p-tolylthio)purine | 0.37 mmol, 86 mg | NC1=C2N=CN(C2=NC(=N1)SC1=CC=C(C=C1)C)CC1=CC=CC=C1 | C19H17N5S
reactant | bromine | 0.4 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-(p-tolylthio)purine | 20 mg, yield 19% | NC1=C2N=C(N(C2=NC(=N1)SC1=CC=C(C=C1)C)CC1=CC=CC=C1)Br | C19H16BrN5S
